US07186724B2
3-(1-Benzyl-piperidin-4-yl)-6-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester (MDL 833803).
To a room temperature solution of (1-benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone (7.5 g, 20.5 mmol), methyl thioglycolate (2.0 mL, 22.5 mmol), and DMF (100 mL) was added K2CO3 (5.65 g, 41.0 mmol). The reaction was stirred at 60° C. for 24 hours, cooled to room temperature and diluted with ethyl acetate (500 mL). The mixture was washed with water (2×300 mL) and brine (300 mL) successively, dried over magnesium sulfate, filtered, and the solvent removed to afford an oil. The oil was purified via chromatography (30% EtOAc in heptane) yielding 5.91 g (67%) as a solid.

reactant | (1-benzyl-piperidin-4-yl)-(2-fluoro-4-trifluoromethyl-phenyl)-methanone | 20.5 mmol, 7.5 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)C1=C(C=C(C=C1)C(F)(F)F)F | C20H19F4NO
reactant | methyl thioglycolate | 22.5 mmol, 2.0 mL | C(CS)(=O)OC | C3H6O2S
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 41.0 mmol, 5.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-Benzyl-piperidin-4-yl)-6-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(F)(F)F)C2CCN(CC2)CC2=CC=CC=C2 | C23H22F3NO2S
